US07351743B1
Preparation of 5-Acenaphthylamine
A mixture of 5 and 3-nitroacenaphthene was reduced with Pd/C in ethyl acetate under hydrogen at 40 psi pressure and the resulting amines were separated by recrystallization from cyclohexane/ethyl acetate.

reactant | 3-nitroacenaphthene | [N+](=O)([O-])C1=C2CCC=3C=CC=C(C=C1)C32 | C12H9NO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | 5-Acenaphthylamine | C1CC2=CC=C(C3=CC=CC1=C23)N | C12H11N
